US09382238B2
To a mixture of 3-nitro-5-(trifluoromethyl)benzonitrile (400 mg, 1.851 mmol) in DMF (20 mL) was added sodium azide (361 mg, 5.55 mmol) at rt. The mixture was stirred at 120° C. overnight. LCMS showed the reaction was finished. The reaction was quenched by water. The mixture was extracted with EA (20 mL×3), washed with water, and concentrated to give 5-(3-nitro-5-(trifluoromethyl)phenyl)-2H-tetrazole (220 mg, 0.743 mmol, 40.1% yield): 1H NMR (400 MHz, DMSO-d6) δ 9.03 (s, 1H), 8.73 (s, 1H), 8.66 (s, 1H), 7.92 (s, 1H). ES-LCMS m/z 260 (M+H).

reactant | 3-nitro-5-(trifluoromethyl)benzonitrile | 1.851 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F3N2O2
reactant | sodium azide | 5.55 mmol, 361 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(3-nitro-5-(trifluoromethyl)phenyl)-2H-tetrazole | 0.743 mmol, 220 mg, 40.1% yield | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C=1N=NNN1 | C8H4F3N5O2
